US03984467
Following a procedure similar to that described in Example 42 but using 7.22 g. sodium in 705 ml. dry acetone, 51.7 g. 4,4-dimethylvaleramidine hydrochloride, and 53.2 g. 4-chlorophenyl isothiocyanate in 350 ml. dry acetone there was obtained 1-(4-chlorophenyl)-3-(4,4-dimethylpentanimidoyl)-2-thiourea; m.p. 135°-137°C. (from acetonitrile); hydrochloride (80.7 g.), m.p. 182°-186°C.

reactant | sodium | [Na] | Na
reactant | 4,4-dimethylvaleramidine hydrochloride | Cl.CC(CCC(=N)N)(C)C
reactant | 4-chlorophenyl isothiocyanate | ClC1=CC=C(C=C1)N=C=S | C7H4ClNS
solvent | acetone | CC(=O)C | C3H6O
product | 1-(4-chlorophenyl)-3-(4,4-dimethylpentanimidoyl)-2-thiourea | ClC1=CC=C(C=C1)NC(=S)NC(CCC(C)(C)C)=N | C14H20ClN3S
